US08648099B2
b) 5-(Tetrahydro-pyran-4-yl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid
In a 25 mL round-bottomed flask, the above prepared 5-(tetrahydro-pyran-4-yl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methyl ester (538 mg, 1.69 mmol, Eq: 1.00) was combined with tetrahydrofuran (4 ml) and water (2 ml) to give a colorless solution. Lithium hydroxide (80.7 mg, 3.37 mmol, Eq: 2) was added and the reaction mixture was stirred at 40° C. TLC after 3 h showed that the reaction was complete. 6 ml H2O and 4.5 ml 1N HCl were added and the white suspension was stirred for 10 min at 0° C. The solid was filtered off, washed with H2O and dried on hv to yield 489 mg of the title compound as white solid; MS (EI) 304.2 (M−H)−.

reactant | 5-(tetrahydro-pyran-4-yl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid methyl ester | 1.69 mmol, 538 mg | COC(C1=CN=C(C(=C1)C1CCOCC1)OCC(F)(F)F)=O | C14H16F3NO4
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | Lithium hydroxide | 3.37 mmol, 80.7 mg | [OH-].[Li+]
reactant | HCl | 1N, 4.5 ml | Cl | ClH
solvent | H2O | 6 ml | O | H2O
solvent | water | 2 ml | O | H2O
product | 5-(Tetrahydro-pyran-4-yl)-6-(2,2,2-trifluoro-ethoxy)-nicotinic acid | 489 mg | O1CCC(CC1)C=1C(=NC=C(C(=O)O)C1)OCC(F)(F)F | C13H14F3NO4
